US07256201B2
4-Methoxy-benzoyl chloride (2.35 g) was added dropwise to a solution of 6-methoxy-1,2,3,4-tetrahydro-isoquinoline (0.75 g) and triethylamine (1.54 mL) in dichloromethane (40 mL) at 0° C. After 18 h at room temperature, the reaction was washed with 1N NaOH (2×50 mL), then water (2×50 mL). The organic extract was dried over sodium sulfate, filtered through celite and concentrated. The (6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl)-(4-methoxy-phenyl)-methanone (0.95 g) product was obtained after purification by chromatography on silica gel (eluant: methylene chloride).

reactant | 4-Methoxy-benzoyl chloride | 2.35 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 6-methoxy-1,2,3,4-tetrahydro-isoquinoline | 0.75 g | COC=1C=C2CCNCC2=CC1 | C10H13NO
reactant | triethylamine | 1.54 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl)-(4-methoxy-phenyl)-methanone | 0.95 g | COC=1C=C2CCN(CC2=CC1)C(=O)C1=CC=C(C=C1)OC | C18H19NO3
